US07838483B2
Cinnamonitrile (1 g, 7.74 mmol) and hydroxylamine (0.71 cm3, 11.6 mmol, 1.5 eq) were reacted in EtOH (7 cm3) as described for AO6 (two chromatographic separations were needed in purification) to give N′-hydroxycinnamimidamide (0.88 g, 70%) as a light orange solid, mp 85-87° C. (lit 93° C.).

reactant | Cinnamonitrile | 7.74 mmol, 1 g | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | hydroxylamine | 11.6 mmol, 0.71 cm3, 1.5 eq | NO | H3NO
solvent | EtOH | 7 cm3 | CCO | C2H6O
product | N′-hydroxycinnamimidamide | 0.88 g, 70% | ON=C(C=CC1=CC=CC=C1)N | C9H10N2O
